Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Head strike
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
frequent falls related to her peripheral neuropathy had a
mechanical fall when leaving church today.  She attempted to
reach the railing to move down a step and missed which caused 
her
to fall hitting her head in the right temporal region. She had 
no
loss of conciousness, but she does endorse nausea since the
event. She was taken to ___ where she had a ___
demonstrating a prepontine hemorrhage with extension into the
fouth ventricle. Transfer to ___ for a neurosurgical 
evaluation
was arranged.

 
Past Medical History:
CVA ___
Idiopathyic peripheral neuropathy
HTN
GERD
Hypothyroidism
Osteoarthritis
Hearing Loss 
Macular degeneration
Posterior Vitreous detachment 
Glaucoma
Thrombocytopenia (has been less than 100)

 
Social History:
___
Family History:
Son had CVA ___

 
Physical Exam:
Exam on Admission:
O: AVSS
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: ___       EOMs
Abd: Soft, NT, BS+
Extrem: Warm and well-perfused.
Neuro:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Orientation: Oriented to person, place, and date.
Language: Speech fluent with good comprehension.
Naming intact. No dysarthria or paraphasic errors.

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to 2
mm bilaterally. Visual fields are full to confrontation.
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Facial strength and sensation intact and symmetric.
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout. No pronator drift

Sensation: Intact to light touch.

Toes downgoing bilaterally

Coordination: normal on finger-nose-finger

Discharge: 
Pt is alert, awake, oriented x 3, PERRL, EOM intact, face is 
symmetric
She does have a left periorbital eccymosis and edema
Motor is ___, sensory is intact, no pronator drift
CV: rrr
pulm: no accessory muscle use, resonant
gi: soft, nt/nd
extr: no c/c/e
 
Pertinent Results:
___ NCHCT- 1. Increased subarachnoid hemorrhage in the 
prepontine cistern and increased Preliminary 
Reportintraventricular hemorrhage. 
  
2. Large left subgaleal hematoma has also increased since the 
previous exam. 

 
Brief Hospital Course:
Ms. ___ was admitte to the neurosurgery floor on ___ after 
evaluation in the emergency department. 
On ___, she had a repeat NCHCT which demonstrated slight 
increase in blood in the ___ ventricle vs. redistribution. 
Patient remained intact on exam. ___ was consulted. There 
recommend acute rehab.  Labs were obtained on ___ which was 
stable with mild elevation of WBCs to 11.1 likely secondary to 
acute trauma.  She remains afebrile and is eating a normal diet. 
 She ambulating with assistance.  No other neurologic issue 
occurred during her hospital stay. She was accepted for acute 
rehab and will be discharged in stable condition. 
 
Medications on Admission:
ASA 81, Levothyroxine, Atrovastatin, Metoprolol, lasix,
gabapentin, zantac, MVI

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN HA 
2. Atorvastatin 10 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Furosemide 10 mg PO DAILY 
5. Gabapentin 200 mg PO HS 
6. Levothyroxine Sodium 100 mcg PO DAILY 
7. Metoprolol Succinate XL 25 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. Ranitidine 150 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
___ Diagnosis:
prepontine hemorrhage
traumatic subarachnoid hemorrhage
intraventricular hemorrhage
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You have been diagnosised with a traumatic brain injury 
(traumatic subarachnoid hemorrhage) after your fall.  Make sure 
that you when ___ get up from sitting position that you take your 
time.  You may have persistent headache and/or fatigue.  

•Take your pain medicine as prescribed.
•Exercise should be limited to walking; no lifting, straining, 
or excessive bending.
•Increase your intake of fluids and fiber, as narcotic pain 
medicine can cause constipation. We generally recommend taking 
an over the counter stool softener, such as Docusate (Colace) 
while taking narcotic pain medication.
•Unless directed by your doctor, do not take any 
anti-inflammatory medicines such as Motrin, Aspirin, Advil, or 
Ibuprofen etc. 
•You are on Aspirin prior to your injury, you may safely resume 
taking this on ___.

CALL YOUR SURGEON IMMEDIATELY IF YOU EXPERIENCE ANY OF THE 
FOLLOWING

•New onset of tremors or seizures.
•Any confusion, lethargy or change in mental status. 
•Any numbness, tingling, weakness in your extremities.
•Pain or headache that is continually increasing, or not 
relieved by pain medication.
•New onset of the loss of function, or decrease of function on 
one whole side of your body.

 
Followup Instructions:
___